US03972992
To a 13.4% solution of methylamine in 100 ml of abs. ethanol was added 5.0 g (10.7 mmol) of 3-(3-phthalimidopropoxy)-7,8-didehydro-4,5α-epoxy-17-methylmorphinan-6 α-ol. After stirring at room temperature for 3.5 hrs, the reaction mixture was concentrated to a volume of about 50 ml and diluted with 200 ml of water and 200 ml of chloroform. The organic solution was separated and the aqueous phase was extracted with chloroform (2 × 200 ml). The combined chloroform solution was extracted with 1 N hydrochloric acid (2 × 100 ml). The acidic extracts were combined and made basic with 2 N sodium hydroxide (150 ml). The aqueous suspension was extracted with chloroform (3 × 200 ml). The chloroform solution was washed with water (2 × 200 ml) and dried. Removal of solvent in vacuo afforded 3.8 g of crude product, which, after recrystallization from benzene-ether, yielded pure 3-(3-aminopropoxy)-7,8-didehydro-4,5α-epoxy-17-methylmorphinan-6α-ol, m.p. 132°-134°[α]D25 -110.2°(c 1.06, MeOH).

reactant | methylamine | CN | CH5N
reactant | 3-(3-phthalimidopropoxy)-7,8-didehydro-4,5α-epoxy-17-methylmorphinan-6 α-ol | 10.7 mmol, 5.0 g | C1(C=2C(C(N1CCCOC=1C=CC=3C[C@@H]4[C@@H]5C=C[C@@H]([C@H]6[C@@]5(C3C1O6)CCN4C)O)=O)=CC=CC2)=O | C28H28N2O5
solvent | ethanol | C(C)O | C2H6O
product | 3-(3-aminopropoxy)-7,8-didehydro-4,5α-epoxy-17-methylmorphinan-6α-ol | NCCCOC=1C=CC=2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)O | C20H26N2O3
